US07504404B2
3-{5-[6-(4-Trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide
The title compound was prepared from 6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid (example C.35) (153 mg, 0.5 mmol) and N-hydroxy-3-sulfamoyl-benzamidine [CAS-No. 9000-88-7] (161 mg, 0.75 mmol) according to general procedure II. Obtained after trituration with water and further purification by crystallization (MeOH/diethyl ether) as an off-white solid (202 mg, 83%). MS (ISP) 486.3 [(M+H)+]; mp 288° C.

reactant | 6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine-3-carboxylic acid | 0.5 mmol, 153 mg | FC(C1=CC=C(C=C1)C=1C=CC=2N(C1)C(=CN2)C(=O)O)(F)F | C15H9F3N2O2
reactant | N-hydroxy-3-sulfamoyl-benzamidine | 0.75 mmol, 161 mg | ONC(C1=CC(=CC=C1)S(N)(=O)=O)=N | C7H9N3O3S
product | 3-{5-[6-(4-Trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide | FC(C1=CC=C(C=C1)C=1C=CC=2N(C1)C(=CN2)C2=NC(=NO2)C=2C=C(C=CC2)S(=O)(=O)N)(F)F | C22H14F3N5O3S
